US06030989
Picolinic acid (1.90 g; 7.2 mmol) was suspended in 100 ml dichloromethane and a solution of 1,4-bis-(2-amino-2-ethyloxycarbonyl-(2R)-ethyl)-benzene (1.10 g, 3.6 mmol) was added. The clear solution was cooled to 0° C. and HOBt (1,31 g, 8.3 mmol) and DCC (1.59 g, 7.7 mmol) were added. The reaction mixture came to room temperature overnight and was extracted with 4% NaHCO3 solution. The combined organic layers were dried over MgSO4, filtered and the solvent was removed. The residue was purified by flash chromatography (silica gel; petrol ether/ethyl acetate 1/2) to yield 1,4-Bis-(2-(2-pyridylcarbonylamino)-2-ethyloxycarbonyl-(2R)-ethyl)-benzene as semicrystalline compound (1.40 g, 76%).

reactant | Picolinic acid | 7.2 mmol, 1.90 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1,4-bis-(2-amino-2-ethyloxycarbonyl-(2R)-ethyl)-benzene | 3.6 mmol, 1.10 g | N[C@H](CC1=CC=C(C=C1)C[C@@H](N)C(=O)OCC)C(=O)OCC | C16H24N2O4
reactant | HOBt | 8.3 mmol, 1,31 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 7.7 mmol, 1.59 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,4-Bis-(2-(2-pyridylcarbonylamino)-2-ethyloxycarbonyl-(2R)-ethyl)-benzene | N1=C(C=CC=C1)C(=O)N[C@H](CC1=CC=C(C=C1)C[C@@H](NC(=O)C1=NC=CC=C1)C(=O)OCC)C(=O)OCC | C28H30N4O6
